US05225409
4-METHYL-7-(2-DIPROPYLAMINOETHYL)-2,3-DIHYDRO-3-OXO-1,4-BENZOXAZINE (HYDROCHLORIDE)
5.4 g of 4-methyl-7-(2-bromoethyl)2,3-dihydro 3-oxo 1,4-benzoxazine, dissolved beforehand in 120 cm3 of dioxane and 6 cm3 of (0.044 mol) of dipropyl-amine, are introduced into a 250 cm3 round-necked flask equipped with a reflux condendser. The mixture is heated to reflux with magnetic stirring for 4 days. After cooling, the reaction mixture is filtered and the filtrate is then evaporated on a water bath under vacuum. The residue is ground with distilled water and extracted with ethyl acetate. The organic phase is recovered and evaporated to dryness and the residue is taken up with 5% HCl solution. The acidic aqueous phase is washed with ethyl acetate and then alkalinized with 10% sodium hydroxide solution. It is extracted with ethyl acetate and the organic phase is washed with distilled water and then dried over potassium carbonate. The solvent is evaporated off on a water bath under vacuum. The residue is taken up in absolute ethanol, a stream of gaseous HCl is bubbled through and the mixture is then evaporated to dryness on a water bath under vacuum. The residue is ground in toluene or ether, then drained and dried. The product is recrystallized in anhydrous acetone.

reactant | 4-methyl-7-(2-bromoethyl)2,3-dihydro 3-oxo 1,4-benzoxazine | 5.4 g | CN1C(COC2=C1C=CC(=C2)CCBr)=O | C11H12BrNO2
reactant | dipropyl-amine | 0.044 mol, 6 cm3 | C(CC)NCCC | C6H15N
solvent | dioxane | 120 cm3 | O1CCOCC1 | C4H8O2
product | 4-METHYL-7-(2-DIPROPYLAMINOETHYL)-2,3-DIHYDRO-3-OXO-1,4-BENZOXAZINE | CN1C(COC2=C1C=CC(=C2)CCN(CCC)CCC)=O | C17H26N2O2
